data/mechanisms/records/IMS8-EQ8.25b.json
{"mechanism_id": "IMS8-EQ8.25b", "species": [{"species_id": "tricyclodecanone_radical_cation", "mapped_smiles": "[C:9]1(=[O+:11])[CH:1]2[CH:2]3[CH2:3][CH2:4][CH2:5][CH:6]3[CH:7]([CH:8]1[1H:12])[CH2:10]2", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "cyclopentadienol_radical_cation", "mapped_smiles": "[C:9]1(=[CH:1][CH2:10][CH:7]=[CH:8]1)[O+:11][1H:12]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "cyclopentene_neutral", "mapped_smiles": "[CH:2]1=[CH:6][CH2:5][CH2:4][CH2:3]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["tricyclodecanone_radical_cation"]}, {"state_id": "state_products", "species_ids": ["cyclopentadienol_radical_cation", "cyclopentene_neutral"]}], "steps": [{"step_id": "step_retro_da", "from_state": "state_precursor", "to_state": "state_products", "step_class": "retro_diels_alder", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 6]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [9, 11]}, "target": {"type": "bond", "atom_maps": [1, 9]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [8, 12]}, "target": {"type": "bond", "atom_maps": [11, 12]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_retro_da", "support_type": "contradicted", "locator": {"page": 156, "equation": "8.25", "section": "OE+. rearrangements: gamma-H/beta-cleavage; ketosteroid/tricyclic stereochemistry (< 1.8 A gamma-H rule)"}, "confidence": 0.8, "curator_note": "This is the REJECTED exo path: on the page the reaction arrow from panel (b) to the intermediate is CROSSED OUT (a large X). The exo-isomer cannot bring its gamma-H within 1.8 A of the carbonyl, so it does NOT give the m/z 82 ion. Encoded with support_type=contradicted and peak status=rejected; detected=false; no intensity. 0 electron-pushing arcs are drawn on panel (b) itself (structure + crossed arrow). PRECURSOR: an endo/exo pair of stereoisomeric ketones drawn as bicyclic/tricyclic cages; they are the dicyclopentadiene-derived tricyclo[5.2.1.0^2,6]decan-one (a norbornane fused to a cyclopentane, C10H14O). The exact carbonyl position and the endo/exo configuration are read from a schematic 3D drawing and are DISCLOSED as uncertain; the constitutional SMILES here places the carbonyl on the two-carbon bridge (C9) of the norbornane unit. Stereochemistry (endo vs exo) is NOT encoded in the SMILES, yet it is the whole point of Eq 8.25: the text (Djerassi/Tokes 1966; Kingston 1974; Herzschuh 1983) states the gamma-H must be < 1.8 A from C=O, so ONLY the endo-isomer (a) undergoes the tandem gamma-H/beta-cleavage rearrangement. NET REACTION: C10H14O+. -> cyclopentadienol radical cation (hydroxycyclopentadiene C5H6O+., m/z 82) + cyclopentene (C5H8). TWO-STEP TANDEM DRAWN BY THE BOOK, COLLAPSED HERE: the page draws (i) a gamma-H rearrangement (arrow labelled 'rH', 3 arcs on the ketone panel) to an explicitly-drawn BRACKETED enol radical-cation intermediate (a cis-fused bis-cyclopentane dienol, [ ]+.), then (ii) a retro-Diels-Alder / beta-cleavage (second 'rH', ~4 arcs on the bracketed intermediate) that splits the two rings. This record encodes the NET fragmentation as ONE net_fragmentation step (the drawn enol intermediate is real and covalent but is not separately encoded here); ~7 fishhook arcs are drawn across the two-step scheme, whereas the NET bond changes are 4 closed-shell 2-electron shifts. RADICAL/CHARGE LOCALISATION (convention C): the odd electron is a SPECTATOR of the net bond changes (it starts and ends on oxygen); the book draws the product +. delocalised over the ring, but this record localises the hole on the enol oxygen (O+., an oxygen-centred resonance form of the hydroxycyclopentadiene radical cation). H-PROVENANCE CAVEAT: in the collapsed net the transferred (hydroxyl) H is formally sourced from C8 (alpha in this atom numbering); the book's stepwise mechanism transfers a gamma-H (1,5) in the first rH step - a net atom-map cannot preserve the stepwise H provenance, so the encoded H-source is a bookkeeping artefact of the collapse, not a claim that C8 is the gamma-carbon. [record = panel b (exo isomer, does NOT react)]"}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": null, "precursor_mz": 150.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_cyclopentadienol", "species_id": "cyclopentadienol_radical_cation", "step_id": "step_retro_da", "observed_mz": 82.0413, "hydrogen_shift": 0, "isotope_offset": 0, "status": "rejected", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
